US06057329
9-Dimethylamino-N-[4-(2-dimethylaminoethoxy)phenyl]benzo[h]-5,6-dihydroquinazoline-2-amine
7-tert-Butoxycarbonylaminotetralone was prepared by heating a solution of 7-aminotetralone (1.0 g, 6.2 mmol) and di-tert-butyl dicarbonate (1.53 g, 7.0 mmol) in toluene at reflux for 1 h. The resulting solid was collected by filtration and dried to give the desired product (1.34 g) as a white solid m.p. 157.3°.

reactant | 7-aminotetralone | 6.2 mmol, 1.0 g | NC1=CC=C2CCCC(C2=C1)=O | C10H11NO
reactant | di-tert-butyl dicarbonate | 7.0 mmol, 1.53 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-tert-Butoxycarbonylaminotetralone | C(C)(C)(C)OC(=O)NC1=CC=C2CCCC(C2=C1)=O | C15H19NO3
